### ISSUE TITLE
Suggest collapsing identical branch bodies after a tactic splits goals

### ISSUE THREAD

**Issue by paulcadman** [mathlib-initiative/TaskList#60]
We could detect parts of proof with identical branch bodies after a tactic splits goals and suggest using `<;>`.

e.g detect:

```lean
example (P : Prop) (hP : P) : P ∧ P := by
  constructor
  · exact hP
  · exact hP
```

and suggest:

```lean
example (P : Prop) (hP : P) : P ∧ P := by
  constructor <;> exact hP
```

Originally suggested by @kim-em.
